US07381719B2
(±)-6-[2-Ethoxy-4-(3-phenyl-pyrrolidin-1-ylmethyl)-phenoxy]-nicotinonitrile
Using a method similar to Example 365 step 2, and using 3-phenyl-pyrollidine (0.150 g, 1.02 mmol), 6-(4-formyl-2-ethoxy-phenoxy)-nicotinonitrile (0.201 g, 0.749 mmol), sodium triacetoxyborohydride (0.237 g, 1.12 mmol), and acetic acid (0.064 mL, 1.12 mmol) in 1,2-dichloroethane (7.5 mL), after silica gel chromatography (1:1 hexanes:ethyl acetate), provides 0.182 g (61%) of the title compound as a clear syrup: mass spectrum (electrospray): m/z=400.2 (M+1); 1H NMR (CDCl3): 8.41 (d, 1H, J=2.0 Hz), 7.86 (dd, 1H, J=2.4, 9.3 Hz), 7.29-7.26 (m, 4H), 7.20-7.14 (m, 1H), 7.07-7.03 (m, 2H), 6.99 (d, 1H, J=7.8 Hz), 6.94 (dd, 1H, J=2.0, 7.8 Hz), 4.01-3.92 (m, 2H), 3.69 (d, 1H, J=13.2 Hz), 3.62 (d, 1H, J=13.2 Hz), 3.41-3.31 (m, 1H), 3.99 (dd, 1H, J=7.8, 8.8 Hz), 2.86-2.78 (m, 1H), 2.77-2.70 (m, 1H), 2.54 (dd, 1H, J=7.3, 9.3 Hz), 2.40-2.29 (m, 1H), 1.96-1.85 (m, 1H).

reactant | 3-phenyl-pyrollidine | 1.02 mmol, 0.150 g | C1(=CC=CC=C1)C1CNCC1 | C10H13N
reactant | 6-(4-formyl-2-ethoxy-phenoxy)-nicotinonitrile | 0.749 mmol, 0.201 g | C(=O)C1=CC(=C(OC2=NC=C(C#N)C=C2)C=C1)OCC | C15H12N2O3
reactant | sodium triacetoxyborohydride | 1.12 mmol, 0.237 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.12 mmol, 0.064 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 7.5 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±)-6-[2-Ethoxy-4-(3-phenyl-pyrrolidin-1-ylmethyl)-phenoxy]-nicotinonitrile | 0.182 g, 61% | C(C)OC1=C(OC2=NC=C(C#N)C=C2)C=CC(=C1)CN1CC(CC1)C1=CC=CC=C1 | C25H25N3O2
